US06066658
A mixture of ethyl 5-bromo-4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate (9.43 g), thiobenzamide (6.86 g) and ethanol (190 ml) was refluxed under heating for 4 hours, after which it was poured over water (600 ml) and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:10, v/v) to yield ethyl 4,5-dihydro-2-phenyl-8-propylthiothieno[3,4-e]benzothiazole-6-carboxylate (3.63 g, 34.9%), which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 125-126° C.

reactant | ethyl 5-bromo-4,5,6,7-tetrahydro-4-oxo-3-propylthiobenzo[c]thiophene-1-carboxylate | 9.43 g | BrC1C(C=2C(=C(SC2SCCC)C(=O)OCC)CC1)=O | C14H17BrO3S2
reactant | thiobenzamide | 6.86 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | ethanol | 190 ml | C(C)O | C2H6O
solvent | water | 600 ml | O | H2O
product | ethyl 4,5-dihydro-2-phenyl-8-propylthiothieno[3,4-e]benzothiazole-6-carboxylate | 3.63 g, 34.9% | C1(=CC=CC=C1)C=1SC2=C(N1)C=1C(CC2)=C(SC1SCCC)C(=O)OCC | C21H21NO2S3
